US05374606
A mixture of methyl 4-bromo-2-(bromomethyl)benzoate (12 g) and sodium thiomethoxide (2.5 g) in toluene was stirred at 100° C. for 2 hours. The mixture was then cooled, poured into water and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried (anhydrous sodium sulphate) and evaporated to afford a brown oil which was purified by column chromatography on silica gel giving methyl 4-bromo-2-(methylsulphenylmethyl)benzoate (4.1 g) as white crystals, m.p. 79.3° C.

reactant | methyl 4-bromo-2-(bromomethyl)benzoate | 12 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | sodium thiomethoxide | 2.5 g | C[S-].[Na+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 4-bromo-2-(methylsulphenylmethyl)benzoate | 4.1 g | BrC1=CC(=C(C(=O)OC)C=C1)CSC | C10H11BrO2S
